US04886809
12 Grams of 2-nitro-5-chlorobenzaldehyde dimethyl acetal, 16.3 g of 4-acetylaminopiperidine hydrochloride, 13.7 g of sodium carbonate and 13 ml of triethylamine in 150 ml of N-methylpyrrolidone solution were mixed together and reacted by heating at 120° C. for 12 hours with stirring under nitrogen gas stream. After the reaction was completed, the solvent was removed by evaporation and thus obtained residue was added with water and extracted with dichloromethane, then the extract was washed with water and with an aqueous solution saturated with sodium chloride, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation and the residue thus obtained was added with diethyl ether, then the crystals formed were collected by filtration to yield 11.2 g of 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde dimethylacetal.

reactant | 2-nitro-5-chlorobenzaldehyde dimethyl acetal | COC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])OC | C9H10ClNO4
reactant | 4-acetylaminopiperidine hydrochloride | 16.3 g | Cl.C(C)(=O)NC1CCNCC1
reactant | sodium carbonate | 13.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde dimethylacetal | 11.2 g | COC(C1=C(C=CC(=C1)N1CCC(CC1)NC(C)=O)[N+](=O)[O-])OC | C16H23N3O5
